US06126867
0.1 mol of 3-(n-heptylamino)phenol in 100 ml of methanol is refluxed for 10 h with 0.11 mol of 2-bromoethanol and 0.1 mol of NaHCO3. After cooling, the mixture is filtered, the solvent is removed in vacuo, and the residue is fractionated, to give 3-[N- (n-heptyl)-N-(2-hydroxyethyl) -amino]phenol.

reactant | 3-(n-heptylamino)phenol | 0.1 mol | C(CCCCCC)NC=1C=C(C=CC1)O | C13H21NO
reactant | 2-bromoethanol | 0.11 mol | BrCCO | C2H5BrO
reactant | NaHCO3 | 0.1 mol | C(=O)(O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-[N- (n-heptyl)-N-(2-hydroxyethyl) -amino]phenol | Yield: 54% | C(CCCCCC)N(CCO)C=1C=C(C=CC1)O | C15H25NO2
